US07968746B2
Oxidation as described in protocol B, using 122 mg (0.368 mmol) of (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-methylpiperazin-1-yl)methanone and 444 mg CAN (0.811 mmol) yielded 2-(3-hydroxy-3-methyl-4-(4-methylpiperazin-1-yl)-4-oxobutyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione as an orange oil, 67.9 mg.

reactant | (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-methylpiperazin-1-yl)methanone | 0.368 mmol, 122 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)N1CCN(CC1)C)C | C19H28N2O3
reactant | CAN | 0.811 mmol, 444 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-(3-hydroxy-3-methyl-4-(4-methylpiperazin-1-yl)-4-oxobutyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione | OC(CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C(=O)N1CCN(CC1)C)C | C19H28N2O4
